US06124381
In a four-necked flask equipped with a stirrer, a thermometer and a condenser, dissolved 18.4 g (0.1 mol) of cyanuric chloride and 50 ml of acetonitrile were dissolved at room temperatures while stirring, followed by cooling a system and adding dropwise a mixture containing 35 g of an ion-exchanged water, 9.9 g (0.1 mol) of cyclohexyl amine, and 10.1 g (0.1 mol) of triethyl amine over 2 hours while maintaining at a reaction temperature of not more than 5° C. After further stirring at 5° C. for 2 hours, 70 ml of 28% aqueous ammonia of was added dropwise, followed by stirring at 5° C. for 1 hour, at 20° C. for 1 hour, and at 50° C. for 2 hours. After that, temperature was elevated to 60° C., and 54.5 g (0.55 mol) of cyclohexyl amine was added and, further, the temperature was elevated to 70° C., followed by stirring for 3 hours. 180 g of an ion-exchanged water was added dropwise, followed by cooling to 10° C. while stirring. A crystal deposited was filtered and washed with a large quantity of an ion-exchanged water, followed by drying in vacuo to obtain 16.5 g of 2-amino-4,6-bis(monocyclohexyl-amino)-1,3,5-triazine which is in powder-state.

reactant | cyanuric chloride | 0.1 mol, 18.4 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | cyclohexyl amine | 0.1 mol, 9.9 g | C1(CCCCC1)N | C6H13N
reactant | triethyl amine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | ammonia | 70 ml | N | H3N
reactant | cyclohexyl amine | 0.55 mol, 54.5 g | C1(CCCCC1)N | C6H13N
solvent | water | O | H2O
solvent | water | 35 g | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-amino-4,6-bis(monocyclohexyl-amino)-1,3,5-triazine | 16.5 g | NC1=NC(=NC(=N1)NC1CCCCC1)NC1CCCCC1 | C15H26N6
